US08084442B2
To a toluene solution (7 ml) containing 2.82 g of 3(S)-aminopyrrolidine-1-carboxylic acid tert-butyl ester (15 mmol) and 1.82 g of 3-bromobenzonitrile (10 mmol) were added 68.5 mg of BINAP (0.11 mmol), 22.5 mg of palladium acetate (0.1 mmol) and 3.91 g of cesium carbonate (12 mmol). The mixture was heated under reflux under a nitrogen atmosphere for 8 hours. After cooling to room temperature, water was added to the reaction solution, and extraction with dichloromethane was performed. After drying over sodium sulfate and concentration under reduced pressure, the residue was then purified by silica gel column chromatography (n-hexane:ethyl acetate=4:1). The purified product was concentrated to dryness under reduced pressure to thereby obtain 1.56 g of light yellow powdery 3(S)-(3-cyanophenylamino)pyrrolidine-1-carboxylic acid tert-butyl ester.

reactant | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
reactant | 3(S)-aminopyrrolidine-1-carboxylic acid tert-butyl ester | 15 mmol, 2.82 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)N | C9H18N2O2
reactant | 3-bromobenzonitrile | 10 mmol, 1.82 g | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | cesium carbonate | 12 mmol, 3.91 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium acetate | 0.1 mmol, 22.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | BINAP | 0.11 mmol, 68.5 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3(S)-(3-cyanophenylamino)pyrrolidine-1-carboxylic acid tert-butyl ester | 1.56 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC1=CC(=CC=C1)C#N | C16H21N3O2
